US04395418
(3R, 4R)-4-Acetoxy-3-[(R)-1-t-butyldimethylsilyloxyethyl]azetidin-2-one
In 300 ml of acetone were dissolved 3 g (7.5 mmole) of the product containing as a main component (3R, 4R)-4-acetoxy-3-[(R)-1-t-butyldimethylsilyloxyethyl]-1-(1-methoxycarbonyl-2-methylprop-1-enyl)azetidin-2-one, which had been obtained in Preparation 5. To the solution was added a solution of 6.43 g (30.1 mmole) of sodium metaperiodate and 120 mg of potassium permanganate in a mixture of 150 ml of water and 150 ml of a 0.1 M phosphate buffer solution (pH 7.02) at about 18° C. over 30 minutes, and then the mixture was stirred at that temperature for 4 hours. After completion of the reaction, the precipitate produced was filtered off and about 25 ml of the above buffer solution was added to the filtrate to adjust its pH to a value of 6.8. The acetone was distilled off at a lower temperature under reduced pressure and the residue was extracted with benzene. The benzene layers were collected and dried. The solvent was distilled off to give a crystalline solid, which was recrystallized from hexane to afford 0.934 g (43.3%) of the desired product as needles melting at 104°-106° C.

reactant | (3R, 4R)-4-acetoxy-3-[(R)-1-t-butyldimethylsilyloxyethyl]-1-(1-methoxycarbonyl-2-methylprop-1-enyl)azetidin-2-one | C(C)(=O)O[C@@H]1[C@H](C(N1C(=C(C)C)C(=O)OC)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C19H33NO6Si
reactant | sodium metaperiodate | 30.1 mmole, 6.43 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | potassium permanganate | 120 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | phosphate | 0.1 M, pH 7.02 | P(=O)([O-])([O-])[O-]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
solvent | water | 150 ml | O | H2O
product | (3R, 4R)-4-Acetoxy-3-[(R)-1-t-butyldimethylsilyloxyethyl]azetidin-2-one | 0.934 g, 43.3% | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
